US05039333
Preparation of Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylsulfinyl)methyl]nicotinate
3-Chloroperoxybenzoic acid (20 mL, 0.00252 mol) is added dropwise to a -78° C. solution of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylthio)methyl]nicotinic acid, methyl ester (1.0 g, 0.00252 mol) and sodium bicarbonate (0.2 g, 0.00238 mol) in methylene chloride. The reaction mixture is stirred at -78° C. for 30 minutes and then at room temperature for 24 hours. The reaction mixture is diluted with 5% sodium metabisulfite solution. The methylene chloride layer is separated, washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield a yellow oil. The oil is chromatographed using silica gel and hexanes/ethyl acetate (1:1) to (1:2) to (1:9) and finally 100% ethyl acetate as eluant to give the title compound as a yellow solid (0.97 g, 90%), mp 132°-136° C., identified by IR and NMR spectral analyses.

reactant | 3-Chloroperoxybenzoic acid | 0.00252 mol, 20 mL | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylthio)methyl]nicotinic acid, methyl ester | 0.00252 mol, 1.0 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)CSC1=CC=CC=C1)C | C21H23N3O3S
reactant | sodium bicarbonate | 0.00238 mol, 0.2 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylsulfinyl)methyl]nicotinate | 0.97 g, 90% | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)CS(=O)C1=CC=CC=C1)C | C21H23N3O4S
